US07741321B2
A mixture of 6-chloromethyl-2,3-dihydro-benzo[1,4]dioxine (12.5 g, 67.7 mmol) and NaCN (4.30 g, 87.8 mmol) in DMSO (50 mL) was stirred at rt for 1 h. The mixture was poured into water (150 mL) and then extracted with dichloromethane (50 mL×4). The combined organic layers were washed with water (50 mL×2) and brine (50 mL), dried over Na2SO4 and concentrated to dryness. The residue was purified by column (Petroleum Ether/Ethyl Acetate 50:1) on silica gel to obtain 2-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)acetonitrile as a yellow oil (10.2 g, 86%). 1H-NMR (300 MHz, CDCl3) δ 6.78-6.86 (m, 3H), 4.25 (s, 4H), 3.63 (s, 2H).

reactant | 6-chloromethyl-2,3-dihydro-benzo[1,4]dioxine | 67.7 mmol, 12.5 g | ClCC1=CC2=C(OCCO2)C=C1 | C9H9ClO2
reactant | NaCN | 87.8 mmol, 4.30 g | [C-]#N.[Na+]
reactant | water | 150 mL | O | H2O
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 2-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)acetonitrile | 10.2 g, 86% | O1C2=C(OCC1)C=C(C=C2)CC#N | C10H9NO2
